US08293768B2
Synthesis of N-benzyl-2-(3-(4-cyanobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
To a solution of N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide (0.20 g, 0.63 mmol) in anhydrous N,N-dimethylformamide (8 mL) was added potassium carbonate (0.10 g, 0.69 mmol), followed by the addition of 4-(chloromethyl)benzonitrile (0.11 g, 0.69 mmol). The reaction mixture was stirred at 80° C. for 4 hours. The solvent was concentrated in vacuo to one-fourth, then diluted with ethyl acetate (150 mL) and washed with water (150 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with ethyl acetate/hexane to afford the title compound as a colorless solid in 40% yield (0.11 g): mp 176-178° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.65-7.63 (m, 2H), 7.40-7.24 (m, 7H), 5.88 (t, J=5.6 Hz, 1H), 4.56 (d, J=5.6 Hz, 2H), 4.51 (s, 2H), 4.13-4.07 (m, 2H), 3.50-3.44 (m, 2H), 2.60 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.2, 157.0, 155.5, 152.8, 141.1, 137.8, 132.7, 129.0, 128.8, 128.7, 127.8, 118.3, 117.6, 112.1, 47.7, 44.1, 42.0, 17.2; MS (ES+) m/z 432.3 (M+1).

reactant | N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide | 0.63 mmol, 0.20 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C15H16N4O2S
reactant | potassium carbonate | 0.69 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(chloromethyl)benzonitrile | 0.69 mmol, 0.11 g | ClCC1=CC=C(C#N)C=C1 | C8H6ClN
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-benzyl-2-(3-(4-cyanobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 40% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C#N)=O)C | C23H21N5O2S
